US04863959
Preparation of 5-acetyl-6-chloroanthranilonitrile
A mixture of 4'-amino-3'-bromo-2'-chloroacetophenone (17 g, 58 mmol) and cuprous cyanide (5.2 g, 58 mmol) is warmed in DMF (85 mL) to 80°-100° C. for 6 hours, then poured into H2O (1.5 L), stirred for 15 minutes and filtered. The brown solid was washed with H2O (200 mL) and then boiled in EtOAc (500 mL) and filtered. This extraction is repeated. The EtOAc filtrate is washed twice with 20% NH4Cl (500 ml), twice with H2O (500 mL), dried with Na2SO4, and evaporated to give a brown solid. After flash column chromatography (SiO2, EtOAc-CH2Cl2, 1:20), the product is isolated as a yellow solid; yld. 5.5 g (48%); m.p. 189°-193° C.

reactant | 4'-amino-3'-bromo-2'-chloroacetophenone | 58 mmol, 17 g | NC1=C(C(=C(C=C1)C(C)=O)Cl)Br | C8H7BrClNO
reactant | H2O | 1.5 L | O | H2O
reactant | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
reactant | DMF | 85 mL | CN(C)C=O | C3H7NO
product | 5-acetyl-6-chloroanthranilonitrile | C(C)(=O)C1=CC=C(C(C#N)=C1Cl)N | C9H7ClN2O
